US07365085B2
d) 1-(3-Benzyloxy-phenyl)-2,2-dibromo-cyclopropanecarboxylic acid ethyl ester
Intermediates d-e were prepared following the procedure of Kirmse, W.; Rode, J. Chem. Ber. 1986, 119, 3694-3703. To absolution of 2-(3-benzyloxy-phenyl)-acrylic acid ethyl ester (250 mg, 0.89 mmol) in methylene chloride (283 uL) was added bromoform (100 uL, 1.1 mmol), benzyltriethyl ammonium chloride (2.6 mg), and sodium hydroxide (50% aqueous solution, 167 uL). The reaction was stirred at room temperature for 48 hours and then the product was extracted into diethyl ether, dried (MgSO4), and evaporated. This material was further purified by filtration through a plug of silica gel using diethyl ether as the eluant to give 358 mg (89% yield) of the title compounds as a white solid. MS (ESI) 454.8 (M+H+).

reactant | 2-(3-benzyloxy-phenyl)-acrylic acid ethyl ester | 0.89 mmol, 250 mg | C(C)OC(C(=C)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C18H18O3
reactant | bromoform | 1.1 mmol, 100 uL | C(Br)(Br)Br | CHBr3
reactant | sodium hydroxide | 167 uL | [OH-].[Na+]
solvent | methylene chloride | 283 uL | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethyl ammonium chloride | 2.6 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(3-Benzyloxy-phenyl)-2,2-dibromo-cyclopropanecarboxylic acid ethyl ester | 358 mg, 89% yield | C(C)OC(=O)C1(C(C1)(Br)Br)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C19H18Br2O3
